US07585885B2
(S)-6-sec-Butylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester
Dissolve 6-chloropyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester (2.8 g, 11.5 mmol), palladium (II) acetate (258.0 mg, 1.15 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (716 mg, 1.15 mmol) and cesium carbonate (5.6 g, 17.2 mmol) in toluene (25 mL) in a previously degassed sealed vessel. Flush the mixture with nitrogen gas. Add (S)-(+)-sec-butylamine (1.38 mL, 13.8 mmol) to the solution under nitrogen and heat the sealed mixture overnight at 100° C. Cool the reaction to room temperature. Dilute with diethyl ether and filter through a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 ethyl acetate:hexanes) to give the title compound as an oil (72%).

reactant | 6-chloropyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester | 11.5 mmol, 2.8 g | COC(=O)C1=CC(=NC(=C1)Cl)C(=O)OCC | C10H10ClNO4
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.15 mmol, 716 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 17.2 mmol, 5.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-(+)-sec-butylamine | 13.8 mmol, 1.38 mL | [C@H](C)(CC)N | C4H11N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium (II) acetate | 1.15 mmol, 258.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-6-sec-Butylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester | 72% | COC(=O)C1=CC(=NC(=C1)N[C@@H](C)CC)C(=O)OCC | C14H20N2O4
